Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics) / Prozac / hypoallergenic tape / 
tape / Tegaderm Transparent Dressing
 
Attending: ___
 
Chief Complaint:
R breast ILC with positive axillary nodes 
 
Major Surgical or Invasive Procedure:
Bilateral skin sparing mastectomies, left sentinel lymph node 
biopsy, and right axillary lymph node dissection with 
lympaticovenous bypass x2.

 
History of Present Illness:
Ms. ___ is a ___ female with a strong family history of
breast cancer and bloody nipple discharge. 

She reports having prior mammograms at ___ and
reports no previous abnormalities.  More recently, last ___, she noted an enlarged right axillary lymph node after
setting of having systemic symptoms and hives.  Diagnostic
bilateral mammogram from ___ dated ___ shows
no suspicious masses calcifications distortion or other
abnormalities in either breast.

Ultrasound was performed at this time and there were noted to be
oval horizontal lymph nodes measuring 1 cm in size in both
axilla, correlating to physical exam findings of lumps in both
axilla per the report.  The report states that the lymph nodes
are normal in size and demonstrate large fatty hilum with hilar
vascularity and may be reactive to systemic process.  She is 
also
having bloody nipple discharge in approximately ___
that she reported was not spontaneous.

She had breast imaging at both ___ and ___ and an ultrasound evaluation  it was noted that she had
bilateral axillary adenopathy with right greater than left.  She
underwent image guided core biopsy of the enlarged right 
axillary
lymph node on ___ which was positive for a metastatic
carcinoma, likely mammary origin, ER positive PR positive HER-2
negative.

On ___ the patient presented at ___ for
bilateral MRI which revealed a slightly enlarged lymph node in
the lower right axilla measuring 1.9 cm in size with a fatty
hilum that was less well-defined than other nodes..  The MRI did
not demonstrate any abnormal mass enhancement or non-masslike
enhancement.  Follow up second look ultrasound on ___ at
___ demonstrated a 2.2 x 1.2 cm lymph node with
a thickened cortex measuring 5mm. ___ - ___ pathology from
___ guided core biopsy performed at twice daily ___ on
___ showed metastatic mammary carcinoma involving lymph
node, ER + (57.8%) PR + (30.3%) and HER2 neg on IHC.  

Second opinion review at ___ reveals metastatic
carcinoma involving fragments of lymph node. By report, the
carcinoma cells are positive for ER (57.8%, strong) and PR
(30.3%, moderate); by report, the carcinoma cells are negative
for HER2 by ___ (score 1+). Taken together, the findings are 
most
consistent with a mammary primary.   

___ genetic testing is pending and patient reports
negative genetic testing 2o years ago due to strong family
history. Prior breast imaging was at ___. 
 
Past Medical History:
___ hypothyroidism, fibromyalgia, severe fatigue/chronic 
fatigue syndrome, sjorgens disease, hypertension

GYN History: Menarche at age ___, menstruation stopped with
ablation in ___. G2P2, parity at age ___, patient breastfed both
of her children. She used OCPs in her ___ and denies any other
hormone use or exposure to DES. She is not of ___
descent.
 
Social History:
___
Family History:
Mom (age ___, 4 maternal aunts (all before age ___,
maternal grandmother and maternal cousin with breast cancer. 1
maternal cousin with ovarian cancer and a maternal male cousin
with and unknown cancer.
 
Physical Exam:
Vitals - ___ ___ Temp: 99.5 BP: 124/71 HR: 85 RR: 18 O2
sat: 96% O2 on RA 

GEN: Well appearing, no acute distress
HEENT: NCAT, EOMI, sclera anicteric
CV: HDS, RRR
PULM: non-labored breathing on RA 
BREAST: incisions c/d/i bilaterally, no evidence of hematoma 
bilaterally, breasts soft, appropriately tender, no evidence of 
ecchymosis
EXT: Warm, well-perfused
NEURO: A&Ox3, no focal neurologic deficits
DRAINS: JPx2 in bilateral axilla
 
Pertinent Results:
___ 
CBC - WBC-10.7, Hgb-10.0, Hct-31.0, Plt ___
CMP - Glucose-99, UreaN-11, Creat-0.7, Na-142, K-3.8, Cl-103, 
HCO3-29, AnGap-10, Calcium-8.4, Phos-4.0, Mg-2.0
 
Brief Hospital Course:
Ms. ___ presented to ___ holding at ___ on ___ for 
bilateral
SSM, L SLNB, and R axillary LND with lymphaticovenous bypass x2. 
She tolerated the procedure well without complications (Please 
see operative note for further details). After a brief and 
uneventful stay in the PACU, the patient was transferred to the 
floor for further post-operative management.
Neuro: Pain was well controlled on Tylenol, oxycodone, and 
Dilaudid.
CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.
Pulm: The patient remained stable from a pulmonary standpoint; 
oxygen saturation was routinely monitored. Had good pulmonary 
toileting, as early ambulation and incentive spirometry were 
encouraged throughout hospitalization.
GI: The patient was initially kept on a clear liquid diet after 
the procedure, and was was later advanced to and tolerated a 
regular diet by time of discharge. Patient's intake and output 
were closely monitored
GU: The patient had a Foley catheter that was removed prior to 
discharge. Urine output was monitored as indicated. At time of 
discharge, the patient was voiding without difficulty.
ID: The patient was closely monitored for signs and symptoms of 
infection and fever without any concerns during her 
postoperative course.
Heme: The patient had blood levels checked on POD1 after surgery 
to monitor for signs of bleeding. The patient received 
subcutaneous heparin and ___ dyne boots were used during this 
stay, she was encouraged to get up and ambulate as early as 
possible. 
On POD3, the patient was discharged to home with ___ services 
for drain care assistance. At discharge, she was tolerating a 
regular diet, passing flatus, voiding, and ambulating 
independently. She will follow-up in the clinic in ___ weeks. 
This information was communicated to the patient directly prior 
to discharge.
 
Medications on Admission:
Nature throid, magnesium, vitamin b12, lymph cleanse, cats claw, 
lisinopril, metoprolol (not taking)
 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q6H  
2.  OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN Pain - 
Moderate 
  Reason for PRN duplicate override: Patient is NPO or unable to 
tolerate PO 
3.  Thyroid ___ mg PO DAILY  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
R breast ILC +axillary nodes

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mastectomy Postoperative Instructions:

Personal Care -  
1. You may keep your incisions open to air or covered with a 
clean, sterile gauze that you change daily.
2. Clean around the drain site(s), where the tubing exits the 
skin, with soap and water.  
3. Strip drain tubing, empty bulb(s), and record output(s) ___ 
times per day.  
4. A written record of the daily output from each drain should 
be brought to every follow-up appointment. Your drains will be 
removed as soon as possible when the daily output tapers off to 
an acceptable amount.  
5. You may wear a surgical bra or soft, loose camisole for 
comfort.  
6. You may shower daily with assistance as needed. Be sure to 
secure your drains so they don't hang down loosely and pull out.
7. The Dermabond skin glue will begin to flake off in about ___ 
days.  
Activity:  
1. You may resume your regular diet.  
2. Walk several times a day.  
3. DO NOT lift anything heavier than 5 pounds or engage in 
strenuous activity for 6 weeks following surgery. 

Medications -  
1. Resume your regular medications unless instructed otherwise 
and take any new meds as ordered .  
2. You may take your prescribed pain medication for moderate to 
severe pain. You may switch to Tylenol or Extra Strength Tylenol 
for mild pain as directed on the packaging. Please note that 
Percocet and Vicodin have Tylenol as an active ingredient so do 
not take these meds with additional Tylenol.  
3. Take prescription pain medications for pain not relieved by 
Tylenol.  
4. Take Colace, 100 mg by mouth 2 times per day, while taking 
the prescription pain medication. You may use a different 
over-the-counter stool softener if you wish.  
5. Do not drive or operate heavy machinery while taking any 
narcotic pain medication. You may have constipation when taking 
narcotic pain medications (oxycodone, percocet, vicodin, 
hydrocodone, dilaudid, etc.); you should continue drinking 
fluids, you may take stool softeners, and should eat foods that 
are high in fiber.  

Call the office IMMEDIATELY if you have any of the following -
1. Signs of infection: fever with chills, increased redness, 
swelling, warmth or tenderness at the surgical site, or unusual 
drainage from the incision(s).  
2. A large amount of bleeding from the incision(s) or drain(s).  

3. Fever greater than 101.5F  
4. Severe pain NOT relieved by your medication.  
  
Return to the ER if - 
* If you are vomiting and cannot keep in fluids or your 
medications.  
* If you have shaking chills, fever greater than 101.5 (F) 
degrees or 38 (C) degrees, increased redness, swelling or 
discharge from incision, chest pain, shortness of breath, or 
anything else that is troubling you.  
* Any serious change in your symptoms, or any new symptoms that 
concern you.  

DRAIN DISCHARGE INSTRUCTIONS  
You are being discharged with drains in place. Drain care is a 
clean procedure. Wash your hands thoroughly with soap and warm 
water before performing drain care. Perform drainage care twice 
a day. Try to empty the drain at the same time each day. Pull 
the stopper out of the drainage bottle and empty the drainage 
fluid into the measuring cup. Record the amount of drainage 
fluid on the record sheet. Reestablish drain suction.  
Please assist patient with drain care. A daily log of individual 
drain outputs should be maintained and brought with patient to 
follow up appointment with your surgeon.

 
Followup Instructions:
___